US08258160B2
Synthesis of ethyl 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylate
Following the procedure as described in Example 2, making variations as necessary to replace benzylazide with 1-(azidomethyl)-4-(trifluoromethyl)benzene to react with ethyl 2-ethynyl-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 67% yield: 1H NMR (300 MHz, CDCl3) δ 8.03 (s, 1H), 7.66-7.55 (m, 2H), 7.45-7.39 (m, 2H), 4.29 (q, J=7.1 Hz, 2H), 5.62 (s, 2H), 2.66 (s, 3H), 1.32 (t, J=7.1 Hz, 3H); MS (ES+) m/z 397.3 (M+1).

reactant | benzylazide | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 1-(azidomethyl)-4-(trifluoromethyl)benzene | N(=[N+]=[N-])CC1=CC=C(C=C1)C(F)(F)F | C8H6F3N3
reactant | ethyl 2-ethynyl-4-methylthiazole-5-carboxylate | C(#C)C=1SC(=C(N1)C)C(=O)OCC | C9H9NO2S
product | ethyl 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylate | 67% yield | CC=1N=C(SC1C(=O)OCC)C=1N=NN(C1)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O2S
